US06172113B2
Methyl (Z)-7-[(1S, 2R, 3R, 4R)-3-(2-dibezofuryl)-sulfonylaminobicyclo[2.2.1]hept-2-yl]-5-heptenoate (1a-1) (234 mg, 0.50 mmol) was dissolved in methanol (6 ml)/tetrahydrofuran (4 ml). To the solution was added 1 N potassium hydroxide (1.50 ml, 1.50 mmol) under ice-cooling. After the reaction mixture was warmed up to room temperature, it was allowed to react for 16 hr and concentrated to remove the solvent. To the residue were added ethyl acetate (50 ml) and water (10 ml), and then 1 N HCl (2.00 ml, 2.00 mmol), and the organic layer was separated. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate (1:1) containing 0.2% acetic acid) to yield (Z)-7-[(1S, 2R, 3R, 4R)-3-(2-dibezofuryl)-sulfonylaminobicyclo[2.2.1]hept-2-yl]-5-heptenoic acid (1a-2) (203 mg, 0.434 mmol). Yield 87%, oil.

reactant | Methyl (Z)-7-[(1S, 2R, 3R, 4R)-3-(2-dibezofuryl)-sulfonylaminobicyclo[2.2.1]hept-2-yl]-5-heptenoate | 0.50 mmol, 234 mg | C1=C(C=CC=2OC3=C(C21)C=CC=C3)[C@H]3[C@H]([C@@]2(CC[C@@H]3C2)N=S(=O)=O)C\C=C/CCCC(=O)OC | C27H29NO5S
reactant | potassium hydroxide | 1.50 mmol, 1 N, 1.50 ml | [OH-].[K+]
reactant | HCl | 2.00 mmol, 1 N, 2.00 ml | Cl | ClH
solvent | methanol | 6 ml | CO | CH4O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | (Z)-7-[(1S, 2R, 3R, 4R)-3-(2-dibezofuryl)-sulfonylaminobicyclo[2.2.1]hept-2-yl]-5-heptenoic acid | 0.434 mmol, 203 mg, Yield 87% | C1=C(C=CC=2OC3=C(C21)C=CC=C3)[C@H]3[C@H]([C@@]2(CC[C@@H]3C2)N=S(=O)=O)C\C=C/CCCC(=O)O | C26H27NO5S
